US04622318
p-Nitrobenzyl 7-[2-methoxyimino-2-{2-(2,2,2-trifluoroacetamido)thiazol-4-yl}acetamido]-3-vinylthiomethyl-3-cephem-4-carboxylate (syn isomer) (100 mg) was hydrogenated in the presence of 5% palladium on carbon under an atmospheric pressure of hydrogen in a mixture of tetrahydrofuran (6 ml), ethanol (0.6 ml) and 0.025M phosphate buffer solution (pH 6.85, 6.4 ml) at ambient temperature for 1.5 hours. The catalyst was filtered off and washed with ethyl acetate and a saturated aqueous solution of sodium bicarbonate successively. The filtrate and washings were combined and adjusted to pH 8 with diluted hydrochloric acid. The aqueous layer was separated, adjusted to pH 6 with diluted hydrochloric acid, washed with ethyl acetate, adjusted to pH 2.4 with diluted hydrochloric acid and extracted with ethyl acetate. The extract was washed with a saturated aqueous solution of sodium chloride, dried over magnesium sulfate, concentrated in vacuo and triturated with diethyl ether to give 7-[2-methoxyimino-2-{2-(2,2,2-trifluoroacetamido)thiazol-4-yl}acetamido]-3-vinylthiomethyl-3-cephem-4-carboxylic acid (syn isomer) (30.0 mg).

reactant | p-Nitrobenzyl 7-[2-methoxyimino-2-{2-(2,2,2-trifluoroacetamido)thiazol-4-yl}acetamido]-3-vinylthiomethyl-3-cephem-4-carboxylate | 100 mg | CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC=C)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O)C=1N=C(SC1)NC(C(F)(F)F)=O | C25H21F3N6O8S3
reactant | hydrogen | [H][H] | H2
reactant | ethanol | 0.6 ml | C(C)O | C2H6O
reactant | phosphate | 0.025M, 6.4 ml, pH 6.85 | P(=O)([O-])([O-])[O-]
catalyst | palladium on carbon | [Pd] | Pd
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
product | 7-[2-methoxyimino-2-{2-(2,2,2-trifluoroacetamido)thiazol-4-yl}acetamido]-3-vinylthiomethyl-3-cephem-4-carboxylic acid | 30.0 mg | CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC=C)C(=O)O)C1=O)C=1N=C(SC1)NC(C(F)(F)F)=O | C18H16F3N5O6S3
